US04315019
(3-trifluoromethyl phenyl) trifluoromethyl Ketoxime.
7.8 g of hydroxylamine hydrochloride are dissolved in 250 ml of a mixture of ethanol and pyridine and to this solution 7 g (m-trifluoromethyl phenyl) trifluoromethyl Ketone are added. The mixture is heated to reflux for 16 hours, then cooled and diluted with 100 ml water. The oxime precipitates and is separated by filtration, dried, washed with water many times, and dried again. The yield amounts to 42%.

reactant | hydroxylamine hydrochloride | 7.8 g | Cl.NO
reactant | (m-trifluoromethyl phenyl) trifluoromethyl Ketone | FC(F)(F)C(=O)C1=CC(=CC=C1)C(F)(F)F | C9H4F6O
solvent | ethanol | C(C)O | C2H6O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
solvent | water | 100 ml | O | H2O
product | (3-trifluoromethyl phenyl) trifluoromethyl Ketoxime | FC(F)(F)C(=NO)C1=CC(=CC=C1)C(F)(F)F | C9H5F6NO
